US08304446B2
4-[(4-(Methyloxy)-3-{[(5-methyl-2-thienyl)sulfonyl]amino}-1H-indazol-1-yl)methyl]benzamide
A solution of 4-{[3-amino-4-(methyloxy)-1H-indazol-1-yl]methyl}benzamide (32.4 mg, 0.2 mmol) in pyridine 3.6 mL) was added to 5-methyl-thiophenesulfonyl chloride (for a preparation see Intermediate 32) (0.30 mmol). The reaction mixture was shaken briefly and allowed to stand for 3 h at 21° C. prior to concentration by blowdown. The residue was dissolved in 1:1 MeOH-DMSO (0.6 mL) and purified by Mass Directed AutoPrep on Xbridge column using Acetonitrile Water with an ammonium carbonate modifier (Method C). The solvent was evaporated in vacuo using the Genevac to give the title compound (12.5 mg, 14%). LCMS (System A) RT=0.86 min, ES+ve m/z 457 (M+H)+.

reactant | 4-{[3-amino-4-(methyloxy)-1H-indazol-1-yl]methyl}benzamide | 0.2 mmol, 32.4 mg | NC1=NN(C2=CC=CC(=C12)OC)CC1=CC=C(C(=O)N)C=C1 | C16H16N4O2
reactant | 5-methyl-thiophenesulfonyl chloride | CC1=CC=C(S1)S(=O)(=O)Cl | C5H5ClO2S2
solvent | pyridine | 3.6 mL | N1=CC=CC=C1 | C5H5N
product | 4-[(4-(Methyloxy)-3-{[(5-methyl-2-thienyl)sulfonyl]amino}-1H-indazol-1-yl)methyl]benzamide | 12.5 mg, 14% | COC1=C2C(=NN(C2=CC=C1)CC1=CC=C(C(=O)N)C=C1)NS(=O)(=O)C=1SC(=CC1)C | C21H20N4O4S2
